US08124636B2
Lithium aluminium hydride (0.42 g, 0.011 mol) was added in portions to a solution of commercially available (S)-4,4-difluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (1 g, 0.0037 mol) in dry THF (25 mL) att 0° C. and allowed to stir for 3 h. The reaction was monitored by TLC and after completion, it was quenched with sat. solution of Na2SO4 in cold condition. The reaction mixture was filtered through a Celite® plug. The filtrate was concentrated under reduced pressure using a rotary evaporator to give a crude material, which was purified via column chromatography (2-7% methanol:DCM, mesh Size-100-200 silica, diameter of column—2.5 cm, height of silica—approx. 6 inch) to give the desired (S)-4,4-difluoro-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.4 g) as a beige solid.

reactant | Lithium aluminium hydride | 0.011 mol, 0.42 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (S)-4,4-difluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.0037 mol, 1 g | COC(=O)[C@H]1N(CC(C1)(F)F)C(=O)OC(C)(C)C | C11H17F2NO4
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (S)-4,4-difluoro-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.4 g | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)(F)F)CO | C10H17F2NO3
